US04803280
A mixture of 30 g of 2-[2-(4-methylphenyl)-1-thioxoethyl]hydrazinecarboxylic acid, methyl ester, 25 g of ethyl acrylate, 500 μl of triethylamine and 250 ml of benzene was heated at reflux for 24 hours, cooled and concentrated in vacuo. The resulting oil was purified by dry column chromatography on silica gel, eluting with dichloromethane. The desired fractions were collected and evaporated, giving [1-[(3-ethoxy-3-oxopropyl)thio]-2-(4-methylphenyl)ethylidene]hydrazinecarboxylic acid, methyl ester as an oil.

reactant | 2-[2-(4-methylphenyl)-1-thioxoethyl]hydrazinecarboxylic acid, methyl ester | 30 g | CC1=CC=C(C=C1)CC(=S)NNC(=O)OC | C11H14N2O2S
reactant | ethyl acrylate | 25 g | C(C=C)(=O)OCC | C5H8O2
reactant | triethylamine | 500 μl | C(C)N(CC)CC | C6H15N
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | [1-[(3-ethoxy-3-oxopropyl)thio]-2-(4-methylphenyl)ethylidene]hydrazinecarboxylic acid, methyl ester | C(C)OC(CCSC(CC1=CC=C(C=C1)C)=NNC(=O)OC)=O | C16H22N2O4S
